US04925867
To a solution of ethyl 3-formylbutyrate (25.3 g) in methanol (200 ml) was added triethylamine (30 ml) and 0-benzylhydroxylamine hydrochloride (34 g). After 10 minutes the solvent was removed by evaporation. The residue was dissolved in hexane, the solution was filtered and evaporated to give crude ethyl 3-formylbutyrate 0-benzyloxime. This crude oxime and sodium cyanoborohydride (18 g) were dissolved in methanol (200 ml) and the solution acidified to PH 3-4 (methyl orange indicator) by addition of 2M-hydrochloric acid. After 40 minutes the solution was diluted with water (1L) and basified by addition of 1N sodium hydroxide. The product was extracted into ethyl acetate and the solution dried over magnesium sulfate. The solvent was removed by evaporation and the resultant crude 0-benzylhydroxylamine was dissolved in ethanol (200 ml) and then sodium methoxide (1.2 g) was added. After 2 h the solvent was removed by evaporation and water (1L) added. The product was extracted into ethyl acetate which was dried over magnesium sulfate. Chromatography on silica gel using ethyl acetate/hexane (60:40) as eluent gave 1-benzyloxy-4-methylpyrrolid-2-one (33.2 g, 85%) as a clear oil. 1H NMR (250 MHz, CDCl3)δ7.46-7.36 (5H; m; phenyl), 5.01 (1H; d, Jgem =11.1 Hz; --CHAHB --O), 4.95 (1H; d, Jgem =11.1 Hz; --CHAHB --O), 3.36 (1H; t, J=8.02 Hz; --CHAHB --N), 2.86 (1H; dd, Jgem =8.01 Hz, J=8.38 Hz; CHAHB --N), 2.49 (1H; dd, J=16.6 Hz, J=8.64Hz; COCHAHB), 2.38-2.17 (1H; m; CH3 --CH), 1.92 (1H; dd, Jgem =16.5 Hz, JJ=6.44 Hz: COCHAHB), 1.03 (3H; d, J=6.8 Hz; CH3 --CH).

reactant | ethyl 3-formylbutyrate | 25.3 g | C(=O)C(CC(=O)OCC)C | C7H12O3
reactant | sodium cyanoborohydride | 18 g | C(#N)[BH3-].[Na+]
reactant | methyl orange | CN(C)C=1C=CC(=CC1)N=NC=2C=CC(=CC2)S(=O)(=O)O | C14H15N3O3S
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | methanol | 200 ml | CO | CH4O
reactant | methanol | 200 ml | CO | CH4O
solvent | water | O | H2O
solvent | triethylamine | 30 ml | C(C)N(CC)CC | C6H15N
product | 1-benzyloxy-4-methylpyrrolid-2-one | 33.2 g, 85% | C(C1=CC=CC=C1)ON1C(CC(C1)C)=O | C12H15NO2
